US07932256B2
Dimethyl sulfoxide (35 mL) was added to a dry round-bottomed flask containing NaH (1.82 g, 45.5 mmol, 60% in mineral oil). The resulting suspension was heated at 70° C. for 35 min during which time the suspension became a solution. The reaction mixture was cooled to room temperature, trimethylsulfoxonium iodide (10.0 g, 45.5 mmol) was added, and the mixture was stirred at room temperature for 30 min. 2-Methoxy-3-methyl-5-nitropyridine (4.50 g, 26.80 mmol) was added and the resulting dark red solution was stirred at room temperature for 30 min, at which time TLC showed complete consumption of starting material. The reaction mixture was transferred to a separatory funnel containing water (30 mL), and the aqueous layer was extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by MPLC (silica gel, 20% ethyl acetate in hexanes) to afford 2-methoxy-3,6-dimethyl-5-nitropyridine (2.00 g, 41% yield) as a colorless solid identical to that prepared by the previous method: mp 85.5-86.2° C.; 1H NMR (400 MHz, CDCl3) δ 8.08 (s, 1H), 4.02 (s, 3H), 2.77 (s, 3H), 2.20 (s, 3H).

reactant | NaH | 45.5 mmol, 1.82 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 45.5 mmol, 10.0 g | [I-].C[S+](=O)(C)C
reactant | 2-Methoxy-3-methyl-5-nitropyridine | 26.80 mmol, 4.50 g | COC1=NC=C(C=C1C)[N+](=O)[O-] | C7H8N2O3
solvent | Dimethyl sulfoxide | 35 mL | CS(=O)C | C2H6OS
product | 2-methoxy-3,6-dimethyl-5-nitropyridine | 2.00 g, 41% yield | COC1=NC(=C(C=C1C)[N+](=O)[O-])C | C8H10N2O3
